US05707995
2-Amino-4,6-bis(4-fluoro-3-trifluoromethylphenoxy)pyrimidine (3.0 g, 6.7 mmol) was dissolved in carbon tetrachloride (75 ml) and the resulting solution was treated with t-butylnitrite (1.2 ml, 13.4 mmol). The mixture was heated at 30° C. for 48 hours and then poured into water. The product was extracted in dichloromethane, dried over sodium sulphate, filtered and concentrated under reduced pressure. The product, 4,6-bis(4-fluoro-3-trifluoromethyl-phenoxy)-2-chloro-pyrimidine, was obtained as an oil by column chromatography (eluting with 5:1, hexane:ethyl acetate). Yield 0.3 g (10%); mass 471 (M+ +H); N.m.r: 7.3-7.5 (6H, m, aromatics), 6.35 (1H,s,H-5).

reactant | 2-Amino-4,6-bis(4-fluoro-3-trifluoromethylphenoxy)pyrimidine | 6.7 mmol, 3.0 g | NC1=NC(=CC(=N1)OC1=CC(=C(C=C1)F)C(F)(F)F)OC1=CC(=C(C=C1)F)C(F)(F)F | C18H9F8N3O2
reactant | t-butylnitrite | 13.4 mmol, 1.2 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | water | O | H2O
reactant | carbon tetrachloride | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,6-bis(4-fluoro-3-trifluoromethyl-phenoxy)-2-chloro-pyrimidine | FC1=C(C=C(OC2=NC(=NC(=C2)OC2=CC(=C(C=C2)F)C(F)(F)F)Cl)C=C1)C(F)(F)F | C18H7ClF8N2O2
